US07390830B1
Synthesis of 3-(aminomethyl)-1-(4-chlorobenzyl)pyrrolidine
A 1.0 M THF solution of BH3 (25 mL) was added to a THF (15 mL) solution of 4-carbamoyl-1-(4-chlorobenzyl)pyrrolidin-2-one (1.49 g). The resulting reaction mixture was stirred for 15 hours and cooled to room temperature. The solvent was then removed under reduced pressure. Water (30 mL) and concentrated hydrochloric acid (10 mL) were added, and the mixture was stirred at 100° C. for 2 hours and at room temperature for 1 hour. A 2 M aqueous solution of NaOH (100 mL) was added, and the obtained mixture was extracted with ethyl acetate (50 mL×3). The organic layers were combined, dried over K2CO3, filtered, concentrated and purified by column chromatography (SiO2, 15% methanol-5% triethylamine/dichloromethane) to thereby afford 3-(aminomethyl)-1-(4-chlorobenzyl)pyrrolidine (860 mg, 19%) as a colorless oil.

reactant | 4-carbamoyl-1-(4-chlorobenzyl)pyrrolidin-2-one | 1.49 g | C(N)(=O)C1CC(N(C1)CC1=CC=C(C=C1)Cl)=O | C12H13ClN2O2
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | THF | 1.0 M | C1CCOC1 | C4H8O
product | 3-(aminomethyl)-1-(4-chlorobenzyl)pyrrolidine | NCC1CN(CC1)CC1=CC=C(C=C1)Cl | C12H17ClN2
